US09079866B2
4-{[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]sulfanyl}pyrimidin-5-amine hydrochloride
The title compound was prepared using analogous conditions to those described in Example 213 utilizing 4′-(5-aminopyrazin-2-yl)-3′-fluoro-[1,1′-biphenyl]-2-thiol and 5-amino-4-chloropyrimidine. MS (ESI): mass calcd. for C20H15FN6S, 390.11; m/z found, 391.0 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 8.35-8.30 (m, 1H), 8.22 (s, 1H), 8.02 (d, J=1.4, 1H), 7.90 (s, 1H), 7.80 (m, 1H), 7.59-7.54 (m, 2H), 7.52-7.44 (m, 2H), 7.24 (dd, J=6.5, 1.6, 1H), 7.21 (m, 1H).

reactant | 4′-(5-aminopyrazin-2-yl)-3′-fluoro-[1,1′-biphenyl]-2-thiol | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C=1C(=CC=CC1)S)F | C16H12FN3S
reactant | 5-amino-4-chloropyrimidine | NC=1C(=NC=NC1)Cl | C4H4ClN3
product | 4-{[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]sulfanyl}pyrimidin-5-amine hydrochloride | Cl.NC=1N=CC(=NC1)C1=C(C=C(C=C1)C1=C(C=CC=C1)SC1=NC=NC=C1N)F | InChI=1S/C20H15FN6S.ClH/c21-15-7-12(5-6-14(15)17-9-26-19(23)10-25-17)13-3-1-2-4-18(13)28-20-16(22)8-24-11-27-20;/h1-11H,22H2,(H2,23,26);1H
